US04593102
3-[(2-Chlorophenyl)thio]piperidine Hydrobromide
A solution of 51.13 g (0.125 mole) of 3-phenylsulfonic acid ester with 1-[(4-methylbenzene)sulfonyl)-3-piperidinol, 25.2 g (0.175 mole) of o-chlorothiophenol and 58 g of sodium carbonate in dimethylformamide was heated at 100° C. for 19 hr and then was quenched in 1 liter of dilute sodium hydroxide. The mixture was extracted with several portions of methylene chloride. The combined methylene chloride extract was washed with several portions of 1M sodium hydroxide, dried over magnesium sulfate and evaporated in vacuo to give an oil which was shown by NMR and mass spectroscopy to e N-tosyl-3-(o-chlorothiophenoxy)piperidine. A mixture of the oil and excess phenol in 200 ml of 48% hydrobromic acid was refluxed for 1.5 hr. The reaction mixture was quenched in ice water, made basic with sodium hydroxide and extracted with several portions of methylene chloride. The combined methylene chloride extract was dried over magnesium sulfate and evaporated in vacuo to give an oil, the free base of the title compound. The free base was converted to the hydrobromic acid salt which was recrystallized from isopropanol-acetonitrile-isopropyl ether, m.p. 152.5°-154.5° C.

reactant | o-chlorothiophenol | 0.175 mole, 25.2 g | ClC1=C(C=CC=C1)S | C6H5ClS
reactant | sodium carbonate | 58 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | N-tosyl-3-(o-chlorothiophenoxy)piperidine | S(=O)(=O)(C1=CC=C(C)C=C1)N1CC(CCC1)SC1=C(C=CC=C1)Cl | C18H20ClNO2S2
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | hydrobromic acid | 200 ml | Br | BrH
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 3-[(2-Chlorophenyl)thio]piperidine Hydrobromide | Br.ClC1=C(C=CC=C1)SC1CNCCC1 | InChI=1S/C11H14ClNS.BrH/c12-10-5-1-2-6-11(10)14-9-4-3-7-13-8-9;/h1-2,5-6,9,13H,3-4,7-8H2;1H
